US07989633B2
(4R)-5-Acetyl-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylic acid
300 mg (0.555 mmol) of (3S)-1-benzyl-2,5-dioxopyrrolidin-3-yl (4R)-5-acetyl-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate are dissolved in 10 ml of ethyl acetate, and 295.7 mg (1.942 mmol) of DBU are added. The mixture is stirred at room temperature for 8 h. Water is then added, and the pH is adjusted to pH 4-5 with 1 N hydrochloric acid. The aqueous phase is separated off and extracted with ethyl acetate. The combined organic phases are washed with saturated sodium chloride solution. After drying over magnesium sulfate, the solvent is removed in vacuo. The product obtained in this way is reacted further without purification.

reactant | (3S)-1-benzyl-2,5-dioxopyrrolidin-3-yl (4R)-5-acetyl-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate | 0.555 mmol, 300 mg | C(C)(=O)C=1[C@H](C(=C(NC1C)C)C(=O)O[C@@H]1C(N(C(C1)=O)CC1=CC=CC=C1)=O)C=1C=CC=C2C(C=C(OC12)C)=O | C31H28N2O7
reactant | DBU | 1.942 mmol, 295.7 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | Water | O | H2O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | (4R)-5-Acetyl-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylic acid | C(C)(=O)C=1[C@H](C(=C(NC1C)C)C(=O)O)C=1C=CC=C2C(C=C(OC12)C)=O | C20H19NO5
